US06479486B2
(1R*,2S*,5S*,6RS)-8-Benzyl-6-(tert-butoxycarbonyl)-2-[(Z)-3-hydroxypropenyl]-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol
A mixture of (1R*,2S*,5S*,6RS)-8-benzyl-2-(3-hydroxypropynyl)-1-phenyl-6-(tert-butoxycarbonyl)-8-azabicylco[3.2.1]octan-2-ol (Description 25; a 3:1 mixture of C6 epimers, 4 g, 8.9 mmol), Lindlar catalyst (800 mg) and ethyl acetate (30 ml) was stirred under hydrogen atmosphere (1 atm) at room temperature for 45 minutes. The reaction mixture was filtered through a pad of Celite™. The filtrate was concentrated to give the title compound (4.0 g, 100%) as a 3:1 mixture of C6 epimers.

reactant | (1R*,2S*,5S*,6RS)-8-benzyl-2-(3-hydroxypropynyl)-1-phenyl-6-(tert-butoxycarbonyl)-8-azabicylco[3.2.1]octan-2-ol | C(C1=CC=CC=C1)N1[C@@]2([C@@](CC[C@H]1C(C2)C(=O)OC(C)(C)C)(O)C#CCO)C2=CC=CC=C2 | C28H33NO4
catalyst | Lindlar catalyst | 800 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (1R*,2S*,5S*,6RS)-8-Benzyl-6-(tert-butoxycarbonyl)-2-[(Z)-3-hydroxypropenyl]-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 4.0 g, 100% | C(C1=CC=CC=C1)N1[C@@]2([C@@](CC[C@H]1C(C2)C(=O)OC(C)(C)C)(O)\C=C/CO)C2=CC=CC=C2 | C28H35NO4
